US07884109B2
Synthesis of (R)-2,2,2-trifluoro-N-(7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide
(R)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-amine (6.13 g, 37.1 mmol, 1 equiv) was dissolved in methylene chloride (80 mL) containing triethylamine (10.3 mL, 2 equiv) and cooled in ice bath. Trifluoroacetic anhydride (7.6 mL, 55.7 mmol, 1.5 equiv) was added dropwise within 20 min. The reaction solution was stirred at RT under argon for 16 h. The reaction was diluted with dichloromethane (20 mL) and washed with saturated NaHCO3, brine and dried (Na2SO4). Solvents were removed by evaporation. The residue was purified on ISCO (0-20% EtOAc-hexane) to give a white solid product (7.85 g, 81%). 1H NMR (400 MHz, DMSO-d6) δ 9.83 (s, 1H), 7.15-7.20 (m, 1H), 7.04 (m, 1H), 6.88 (dd, 1H), 4.99-5.02 (m, 1H), 2.69-2.79 (m, 2H), 1.70-1.99 (m, 4H).

reactant | (R)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-amine | 37.1 mmol, 6.13 g, 1 equiv | FC1=CC=C2CCC[C@H](C2=C1)N | C10H12FN
reactant | triethylamine | 10.3 mL, 2 equiv | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 55.7 mmol, 7.6 mL, 1.5 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-2,2,2-trifluoro-N-(7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)acetamide | 7.85 g, 81% | FC(C(=O)N[C@@H]1CCCC2=CC=C(C=C12)F)(F)F | C12H11F4NO
